US04254274
EXAMPLE 5 2-[4-(2-Oxo-1-cycloheptylidenemethyl)phenyl]propionic acid
To a mixture of 5.15 g of ethyl 2-(p-formylphenyl)propionate and 4.2 g of cycloheptanone were added dropwise at room temperature 30 ml of an aqueous solution of 2.6 g of sodium hydroxide and the resulting mixture was heated under reflux for 3 hours. After cooling, the reaction mixture was extracted twice with ethyl acetate, an aqueous layer was made acidic with hydrochloric acid and extracted with ethyl acetate. The extract was washed with water and dried over anhydrous sodium sulfate. The ethyl acetate was distilled off to leave an oily substance, which was then subjected to a silica gel column chromatography and elution was effected with benzene-ethyl acetate 5:1 to yield an yellow oily substance. The substance was distilled under reduced pressure to give 2.7 g of the desired product as a pale yellow oily substance having a boiling point of 210°-215° C./0.3 mmHg (bath temp.).

reactant | ethyl 2-(p-formylphenyl)propionate | 5.15 g | C(=O)C1=CC=C(C=C1)C(C(=O)OCC)C | C12H14O3
reactant | cycloheptanone | 4.2 g | C1(CCCCCC1)=O | C7H12O
reactant | sodium hydroxide | 2.6 g | [OH-].[Na+]
product | 2-[4-(2-Oxo-1-cycloheptylidenemethyl)phenyl]propionic acid | 2.7 g | O=C1C(CCCCC1)=CC1=CC=C(C=C1)C(C(=O)O)C | C17H20O3
